US05650513
0.70 g (2.17 mmol) of perylene-3,4-dicarboxylic anhydride is mixed with 0.49 g (3.28 mmol) of 4-t-butylaniline, 3.00 g of imidazole and 0.10 g of zinc acetate dihydrate and the mixture is heated at 140°-150° C. for 5 h. While still hot, the mixture is treated with 100 ml of ethanol, and then 200 ml of 10% hydrochloric acid are added. The red suspension is heated until all the ethanol has evaporated, and the product is then filtered off with suction. The red-brown residue is boiled in 10% potassium carbonate solution, the solid residue is filtered off with suction while hot and rinsed several times with hot dist. water. The red residue is dried in a drying cabinet at 120° C. and then recrystallized by extraction with a toluene/methanol mixture to give 0.80 g (81%) of red N-(4-t-butylphenyl)perylene-3,4-dicarboximide which shows a red solid fluorescence. M.p. >330° C. Rf (CHCl3 /silica gel)=0.35.

reactant | perylene-3,4-dicarboxylic anhydride | 2.17 mmol, 0.70 g | C1=CC2=C3C(=CC=C4C5=CC=CC6=CC=CC(C1=C34)=C56)C(=O)OC2=O | C22H10O3
reactant | 4-t-butylaniline | 3.28 mmol, 0.49 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | imidazole | 3.00 g | N1C=NC=C1 | C3H4N2
reactant | hydrochloric acid | 200 ml | Cl | ClH
catalyst | zinc acetate dihydrate | 0.10 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(4-t-butylphenyl)perylene-3,4-dicarboximide | 0.80 g, 81% | C(C)(C)(C)C1=CC=C(C=C1)N1C(=O)C=2C=CC=3C=4C=CC=C5C=CC=C(C6=CC=C(C2C63)C1=O)C54 | C32H23NO2
